US04801616
5-[3-Hydroxy-4-(2-hydroxybenzoyl)-2-propylphenoxy]pentanenitrile
A mixture of 3.6 g of (2,4-dihydroxy-3-propylphenyl)(2-hydroxyphenyl)methanone, 1.4 ml of 5-bromopentane nitrile, 100 mg of sodium iodide, and 9.12 g of potassium carbonate in 50 ml of methyl ethyl ketone was heated to 70° C. for approximately 18 hours. The mixture was cooled and partitioned between diethyl ether and water. The organic layer was separated, dried over magnesium sulfate, and evaporated to dryness. The resulting oil was purified by high pressure liquid chromatography over silica gel eluting with a 5-25% ethyl acetate in hexane gradient. Evaporation of the desired fractions and crystallization from diethyl ether/hexane provided 1.31 g of the title product, m.p. 81°-82° C.

reactant | (2,4-dihydroxy-3-propylphenyl)(2-hydroxyphenyl)methanone | 3.6 g | OC1=C(C=CC(=C1CCC)O)C(=O)C1=C(C=CC=C1)O | C16H16O4
reactant | 5-bromopentane nitrile | 1.4 ml | BrCCCCC#N | C5H8BrN
reactant | sodium iodide | 100 mg | [I-].[Na+]
reactant | potassium carbonate | 9.12 g | C([O-])([O-])=O.[K+].[K+]
solvent | methyl ethyl ketone | 50 ml | C(C)C(=O)C | C4H8O
product | 5-[3-Hydroxy-4-(2-hydroxybenzoyl)-2-propylphenoxy]pentanenitrile | 1.31 g | OC=1C(=C(OCCCCC#N)C=CC1C(C1=C(C=CC=C1)O)=O)CCC | C21H23NO4
